US06451811B2
6-Bromo-N-(4-chlorobenzyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxarnide
To a solution of 6-bromo-N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide (0.400 g, 0.98 mmol) and potassium carbonate (0.54 g, 3.92 mmol) in 5 mL DMF at room temperature is added dropwise methyl iodide (0.167 g, 1.18 mmol). The mixture is stirred at room temperature for 30 min then diluted with water. The resulting solid is filtered, washed with water and dried. The crude product is triturated with EtOAc/hexanes to yield 0.358 g (85%) of the desired product as a white solid. Physical characteristics are as follows: m.p. 266-268° C.; 1H NMR (CDCl3) δ 10.18, 8.92, 8.83, 7.30, 4.65, 4.03, 2.82; Anal. Calcd for C18H15BrClN3O2: C, 51.39; H, 3.59; N, 9.99; Found: C, 51.02; H, 3.57; N, 9.94.

reactant | 6-bromo-N-(4-chlorobenzyl)-4-hydroxy-7-methyl[1,8]naphthyridine-3-carboxamide | 0.98 mmol, 0.400 g | BrC=1C=C2C(=C(C=NC2=NC1C)C(=O)NCC1=CC=C(C=C1)Cl)O | C17H13BrClN3O2
reactant | potassium carbonate | 3.92 mmol, 0.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 1.18 mmol, 0.167 g | CI | CH3I
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Bromo-N-(4-chlorobenzyl)-1,7-dimethyl-4-oxo-1,4-dihydro[1,8]naphthyridine-3-carboxarnide | 0.358 g, 85% | BrC=1C=C2C(C(=CN(C2=NC1C)C)C(=O)NCC1=CC=C(C=C1)Cl)=O | C18H15BrClN3O2
